US09212187B2
Synthesis of 6-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}-2H-isoquinolin-1-one trihydrochloride
Triphenyl phosphine(51 mg) and di-tert-butyl azodicarboxylate (45 mg) were added to a tetrahydrofuran (THF) solution(1.5 ml) of 6-hydroxy-2H-isoquinolin-1-one(29 mg), and 3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propan-1-ol(40 mg). The mixture was stirred overnight. After the reaction mixture was condensed under reduced pressure, the residue was purified by NH silica gel column chromatography (ethyl acetate: methanol=1:0→4:1). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution(0.06 ml) was added to an ethyl acetate solution of the residue, which was stirred at room temperature for 30 minutes. The generated insoluble matter was separated by filtration, and was dried to produce the title compound(31.4 mg) as a white powder.

reactant | Triphenyl phosphine | 51 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 45 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 6-hydroxy-2H-isoquinolin-1-one | 29 mg | OC=1C=C2C=CNC(C2=CC1)=O | C9H7NO2
reactant | 3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propan-1-ol | 40 mg | N1=CC(=CC=C1)CCN(CCCO)CC1=CC=NC=C1 | C16H21N3O
reactant | hydrogen chloride ethyl acetate | 0.06 ml | C(C)OC(C)=O.Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 6-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}-2H-isoquinolin-1-one trihydrochloride | 31.4 mg | Cl.Cl.Cl.N1=CC(=CC=C1)CCN(CCCOC=1C=C2C=CNC(C2=CC1)=O)CC1=CC=NC=C1 | InChI=1S/C25H26N4O2.3ClH/c30-25-24-5-4-23(17-22(24)8-13-28-25)31-16-2-14-29(19-21-6-11-26-12-7-21)15-9-20-3-1-10-27-18-20;;;/h1,3-8,10-13,17-18H,2,9,14-16,19H2,(H,28,30);3*1H
